US08383641B2
61.3 2-Methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-amine
2-Methyl-3-nitro-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridine (940 mg) was dissolved in methanol (50 mL) and hydrogenated (H-cube from ThalesNano, 10% Pd/C, 60° C., 50 bar, 1 mL/min). The methanol was removed in vacuo. Yield: 800 mg (95%, colorless oil).

reactant | 2-Methyl-3-nitro-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridine | 940 mg | CC1=NC(=CC=C1[N+](=O)[O-])OC1CN(CC1)C(CC)=O | C13H17N3O4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-Methyl-6-[(1-propionylpyrrolidin-3-yl)oxy]pyridin-3-amine | CC1=NC(=CC=C1N)OC1CN(CC1)C(CC)=O | C13H19N3O2
